US04221914
To 200 ml of cold thionyl chloride is added 0.1 mole of 3-isopropylimidazol-5-ylmethanol. After stirring for 1 hour at 25° C. the excess thionyl chloride is evaporated under reduced pressure to give crude 5-chloromethyl-2-isopropylimidazole hydrochloride. To an ice cold solution of 5 mmole of 5-chloromethyl-2-isopropylimidazole hydrochloride in 25 ml of dry dimethylformamide is added a cold solution of powdered sodium cyanide (18 mmole) in 30 ml of dimethylformamide. The mixture is stirred overnight at 25° C. then diluted with 200 ml of water and neutralized with sodium bicarbonate. The solution is saturated with sodium chloride and extracted with ethylacetate (5×50 ml). The organic extracts are washed with water, dried over magnesium sulfate and evaporated under reduced pressure to give a solid residue which is sublimed to give 5-cyanomethyl-2-isopropylimidazole. 5-cyanomethyl-2-isopropylimidazole (10 mmole) is heated with 10 ml of concentrated hydrochloric acid for 12 hours at reflux temperature then concentrated under reduced pressure to give 2-isopropylimidazol-5-ylacetic acid hydrochloride. To an ice cold solution of 0.08 mole of sodium carbonate in 40 ml of water is added 2-isopropylimidazol-5-ylacetic acid hydrochloride followed by 0.025 mole of tosyl chloride dissolved in 30 ml of ethyl acetate. After stirring for 5 hours at 25° C. the reaction mixture is neutralized with hydrochloric acid M and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate and concentrated under reduced pressure to yield 2-isopropyl-1-tosylimidazol-5-ylacetic acid. To a suspension of the sodium salt of 2-isopropyl-1-tosylimidazol-5-ylacetic acid in 100 ml of benzene is added 1 equivalent of oxalyl chloride. The reaction mixture is stirred at 25° C. for 12 hours. The precipitate is filtered off and the filtrate concentrated under reduced pressure to give 2-isopropyl-1-tosylimidazol-5-ylacetyl chloride. To a solution of 29 mmole of diazomethane in 84 ml of ether cooled to 0° C. and magnetically stirred is added dropwise over 45 minutes a solution of 14.3 mmole of 2-isopropyl-1-tosylimidazol-5-ylacetyl chloride in 60 ml of ether. After stirring for 11/2 hours at 25° C. the reaction mixture is added to a solution of hydrogen fluoride/pyridine precooled to 0° C. The resulting heterogeneous solution is stirred at 25° C. for 11/2 hours then poured onto 150 g of ice. The organic phase is separated, washed with sodium bicarbonate (pH of 8) then with brine and dried over magnesium sulfate. Concentration of the mixture under reduced pressure yields 2-isopropyl-1-tosylimidazol-5-ylmethyl fluoromethyl ketone.

reactant | 5-chloromethyl-2-isopropylimidazole hydrochloride | 5 mmole | Cl.ClCC1=CN=C(N1)C(C)C
reactant | sodium cyanide | 18 mmole | [C-]#N.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-cyanomethyl-2-isopropylimidazole | C(#N)CC1=CN=C(N1)C(C)C | C8H11N3
